US07205261B2
Synthesis of N-decanoyl -2-aminoethanol (NAE-10:0):
A solution of ethanolamine (3.42 ml, 56.6 mmol) and triethylamine (5.51 ml, 39.5 mmol) in dry tetrahydrofuran (150 ml) was cooled in ice bath and decanoyl chloride (5.44 ml, 26.3 mmol) in tetrahydrofuran (50 ml) was added dropwise. The reaction mixture was stirred at room temperature overnight and filtered. The filtered solution was concentrated in vacuo. The residue was diluted with ethyl acetate (300 ml) and washed with 0.1% HCl (50 ml×3), saturated NaHCO3 (50 ml×3), brine (50 ml), and water (50 ml). The organic solution was dried over MgSO4 and solvent was removed on a rotovap. The crude product was purified by flash column chromatography, eluting with a gradient of dichloromethane/methanol (95:5) to dichloromethane/methanol (9:1) to give 5.57 g of a white solid NAE-10:0 (99% yield): Rf=0.35 in dichloromethane/methanol (95:5); 1H NMR (CDCl3) 6 6.11 (br, 1H), 3.72 (m, 2H), 3.42 (m, 2H), 3.08 (br, 1H), 2.20 (t, J=7.9 Hz, 2H), 1.64 (m, 2H), 1.26–1.29 (m, 12H), 0.88 (t, J=6.8 Hz, 3H); FT-IR (Table 1).

reactant | ethanolamine | 56.6 mmol, 3.42 ml | C(O)CN | C2H7NO
reactant | triethylamine | 39.5 mmol, 5.51 ml | C(C)N(CC)CC | C6H15N
reactant | decanoyl chloride | 26.3 mmol, 5.44 ml | C(CCCCCCCCC)(=O)Cl | C10H19ClO
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-decanoyl -2-aminoethanol | 5.57 g | C(CCCCCCCCC)(=O)NCCO | C12H25NO2
